US07935707B2
To 0.4 g (2 mmol) of 2-cyclopropylamino-3-oxo-butyric acid ethyl ester hydrochloride salt, 0.6 g (2 mmol) of 3-morpholin-4-yl-5-trifluoromethyl-benzoic acid, 0.4 g (2 mmol) of EDCI and 0.3 g (2 mmol) of HOBT was added 2 ml of DMF and 0.6 ml (4 mmol) of triethylamine. The mixture was stirred for 3 h after which time the solvent was removed by evaporation; the residue was then re-dissolved in EtOAc, washed with 10% citric acid solution, saturated sodium hydrogen carbonate solution, dried with sodium sulfate and re-concentrated to afford 0.8 g (93%) of crude 2-[cyclopropyl-(3-morpholin-4-yl-5-trifluoromethyl-benzoyl)-amino]-3-oxo-butyric acid ethyl ester. This material was re-dissolved in 5 ml of EtOH and 1 g (8 mmol) of ammonium trifluoroacetate was added. The solvent was evaporated and the residue heated to 130° C. for 16 h. The cooled residue was partitioned between saturated sodium hydrogen carbonate solution and CH2Cl2. The organic phase was dried with sodium sulfate and concentrated. Purification by flash column chromatography [n-heptane/EtOAc 6:4] afforded 0.4 g (55%) of the title compound as colorless solid. MS: 424.2 (MH+).

reactant | 2-cyclopropylamino-3-oxo-butyric acid ethyl ester hydrochloride salt | 2 mmol, 0.4 g | Cl.C(C)OC(C(C(C)=O)NC1CC1)=O
reactant | 3-morpholin-4-yl-5-trifluoromethyl-benzoic acid | 2 mmol, 0.6 g | N1(CCOCC1)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C12H12F3NO3
reactant | EDCI | 2 mmol, 0.4 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 2 mmol, 0.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 4 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-[cyclopropyl-(3-morpholin-4-yl-5-trifluoromethyl-benzoyl)-amino]-3-oxo-butyric acid ethyl ester | 0.8 g, 93% | C(C)OC(C(C(C)=O)N(C(C1=CC(=CC(=C1)C(F)(F)F)N1CCOCC1)=O)C1CC1)=O | C21H25F3N2O5
